US04935424
4-Methyl-5-[2-[4(2-pyridinyl)-1-piperazinyl]ethyl]-2-thiazolamine, hemihydrate;
mp 135°-150° C. and EXAMPLE 1i 4-[3-[4-(2-Pyridinyl)-1-piperazinyl]-propyl]-2-thiazolamine, containing 1/4 of a mole of water; mp 132°-137° C.

reactant | 4-[3-[4-(2-Pyridinyl)-1-piperazinyl]-propyl]-2-thiazolamine | N1=C(C=CC=C1)N1CCN(CC1)CCCC=1N=C(SC1)N | C15H21N5S
reactant | water | O | H2O
product | 4-Methyl-5-[2-[4(2-pyridinyl)-1-piperazinyl]ethyl]-2-thiazolamine, hemihydrate | O.CC=1N=C(SC1CCN1CCN(CC1)C1=NC=CC=C1)N.CC=1N=C(SC1CCN1CCN(CC1)C1=NC=CC=C1)N | InChI=1S/2C15H21N5S.H2O/c2*1-12-13(21-15(16)18-12)5-7-19-8-10-20(11-9-19)14-4-2-3-6-17-14;/h2*2-4,6H,5,7-11H2,1H3,(H2,16,18);1H2
